US08912180B2
To a mixture of tert-butyl 4-({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-ylpyrimidin-2-yl}amino)piperidine-1-carboxylate (63 mg) and methanol (1.3 mL) were added a 4 M solution of hydrogen chloride in 1,4-dioxane (0.15 mL), and the mixture was stirred at room temperature for 4 hours. The reaction mixture was neutralized by the addition of saturated aqueous sodium bicarbonate solution, and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by amino silica gel column chromatography (hexane:ethyl acetate=50:50) to obtain 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-piperidin-4-ylpyrimidin-2-amine (27 mg) as a pale yellow powder.

reactant | tert-butyl 4-({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-ylpyrimidin-2-yl}amino)piperidine-1-carboxylate | 63 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NC1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2)F | C26H33F2N7O3
reactant | methanol | 1.3 mL | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 0.15 mL | O1CCOCC1 | C4H8O2
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-piperidin-4-ylpyrimidin-2-amine | 27 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NC1CCNCC1)C=CC=C2)F | C21H25F2N7O
